US06482859B1
50.4 g of (S)-2-(tert-butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-amide are dissolved in 1000 ml of tetrahydrofuran and hydrogenated with hydrogen for 2 hours over 10 g of 10% palladium on activated carbon under normal pressure and at room temperature. Filtration with suction is carried out over Celite. The filtrate is concentrated by evaporation, yielding (S)-2-(tert-butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-amide in the form of an oil.

reactant | (S)-2-(tert-butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-(4-benzyloxy-3-methoxy-phenyl)-ethyl]-amide | 50.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)OC | C26H36N2O5
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
solvent | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 10 g | [Pd] | Pd
product | (S)-2-(tert-butoxycarbonyl-amino)-3-methyl-butyric acid N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-amide | OC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)OC | C19H30N2O5
